US06787536B2
4-[4-(4-Pyridin-3-yl-phenyl)piperazine-1-sulfonylmethyl]-tetrahydropyran-4-carboxylic acid-N-hydroxyamide
Prepared according to the method for the preparation of 2-[4-(4-furan-2-yl-phenyl)piperazine-1-sulfonylmethyl]-N-hydroxy-3-methylbutyramide, from 4-[4-(4-pyridin-3-yl-phenyl)piperazine-1-sulfonylmethyl]tetrahydropyran-4-carboxylic acid (0.20 g), to yield the title compound as a white solid (0.19 g, 94%).

reactant | 2-[4-(4-furan-2-yl-phenyl)piperazine-1-sulfonylmethyl]-N-hydroxy-3-methylbutyramide | O1C(=CC=C1)C1=CC=C(C=C1)N1CCN(CC1)S(=O)(=O)CC(C(=O)NO)C(C)C | C20H27N3O5S
reactant | 4-[4-(4-pyridin-3-yl-phenyl)piperazine-1-sulfonylmethyl]tetrahydropyran-4-carboxylic acid | 0.20 g | N1=CC(=CC=C1)C1=CC=C(C=C1)N1CCN(CC1)S(=O)(=O)CC1(CCOCC1)C(=O)O | C22H27N3O5S
product | 4-[4-(4-Pyridin-3-yl-phenyl)piperazine-1-sulfonylmethyl]-tetrahydropyran-4-carboxylic acid-N-hydroxyamide | 0.19 g, 94% | ONC(=O)C1(CCOCC1)CS(=O)(=O)N1CCN(CC1)C1=CC=C(C=C1)C=1C=NC=CC1 | C22H28N4O5S
